US07807672B2
4-amino-2-t-butylphenol was prepared by the procedure described in the preparation of 4-Amino-2-isopropyl-phenol substituting 2-tert. butylphenol for 2-isopropylphenol.

reactant | 4-Amino-2-isopropyl-phenol | NC1=CC(=C(C=C1)O)C(C)C | C9H13NO
reactant | 2-isopropylphenol | C(C)(C)C1=C(C=CC=C1)O | C9H12O
product | 4-amino-2-t-butylphenol | NC1=CC(=C(C=C1)O)C(C)(C)C | C10H15NO
